US04757102
[N,N-Diethylaminoxymethyl]-di-n-butylamine
The procedure of Example I is repeated using 26.74 g of diethylhydroxylamine, 29.22 g of aqueous formaldehyde (37%) solution and 38.77 g of di-n-butylamine, to afford the title compound as a colorless liquid.

reactant | diethylhydroxylamine | 26.74 g | C(C)N(O)CC | C4H11NO
reactant | formaldehyde | 29.22 g | C=O | CH2O
reactant | di-n-butylamine | 38.77 g | C(CCC)NCCCC | C8H19N
product | [N,N-Diethylaminoxymethyl]-di-n-butylamine | C(C)N(OCN(CCCC)CCCC)CC | C13H30N2O
